US07741327B2
To a solution of (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (1.00 g, 1.99 mmol) in 2-propanol (4 mL) was added 2N hydrochloric acid (4.00 mL, 8.00 mmol). The mixture was stirred for 2 h at 25° C. Water (4 mL) was added and the mixture was thoroughly extracted with methyl t-butyl ether (30 mL). The organic layer was separated and washed with 1N sodium hydroxide (20 mL) and then brine (20 mL). Concentration of the organic layer provided a white foam. The foam was chopped up with a spatula to afford (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (890 mg, 96.7%) as an off-white solid: LR-ES-MS m/z calculated for C22H27ClN4O5 [M]+ 462, [M+H]+ observed 463.

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 1.99 mmol, 1.00 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)C | C25H31ClN4O5
reactant | hydrochloric acid | 8.00 mmol, 2N, 4.00 mL | Cl | ClH
reactant | Water | 4 mL | O | H2O
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 890 mg, 96.7% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)CO | C22H27ClN4O5
